US04031099
c. 4-Hydroxy-7-methyl-3-nitro-5,6,7,8-tetrahydrocarbostyril
A suspension of 4-hydroxy-7-methyl-5,6,7,8-tetrahydrocarbostyril, (1.608 g; 0.009 mole) in glacial acetic acid (10 ml) was treated with concentrated nitric acid (2.5 ml; d 1.42) and the clear solution heated at 100° C until the exothermic reaction set in (ca 7 mins). After rapid cooling water (40 ml) was added and the yellow solid filtered off and recrystallised from ethanol; acetic acid, m.p. 238° (d).

reactant | 4-hydroxy-7-methyl-5,6,7,8-tetrahydrocarbostyril | OC1=CC(NC=2CC(CCC12)C)=O | C10H13NO2
reactant | nitric acid | 2.5 ml | [N+](=O)(O)[O-] | HNO3
reactant | water | 40 ml | O | H2O
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 4-Hydroxy-7-methyl-3-nitro-5,6,7,8-tetrahydrocarbostyril | OC1=C(C(NC=2CC(CCC12)C)=O)[N+](=O)[O-] | C10H12N2O4
